* SPICE netlist output from Bdnet2BSpice

.subckt map9v3 vdd vss clock start reset N<1> N<2> N<3> N<4> N<5> N<6> N<7> N<8> dp<1> dp<3> dp<5> dp<7> done dp<0> dp<2> dp<4> dp<6> 
x1 vdd vss run 1465 INVX1
x2 vdd vss N<1> 728 INVX1
x3 vdd vss oldstart 947 INVX1
x4 vdd vss 947 start oldreset 251 AOI21X1
x5 vdd vss reset 251 1465 730 OAI21X1
x6 vdd vss 1465 730 731 NAND2X1
x7 vdd vss counter<0> 727 INVX1
x8 vdd vss 728 731 727 730 732 OAI22X1
x9 vdd vss 732 1437 INVX1
x10 vdd vss counter<0> 1465 1437 1448 OAI21X1
x11 vdd vss 1448 clock counter<0> DFFPOSX1
x12 vdd vss sr<1> 733 INVX1
x13 vdd vss reset 811 INVX1
x14 vdd vss 811 run 734 NAND2X1
x15 vdd vss sr<2> 735 INVX1
x16 vdd vss reset 730 736 OR2X1
x17 vdd vss 733 734 735 736 1449 OAI22X1
x18 vdd vss 1449 clock sr<2> DFFPOSX1
x19 vdd vss sr<5> 737 INVX1
x20 vdd vss run almostdone 738 OR2X1
x21 vdd vss 730 738 739 OR2X1
x22 vdd vss 738 39 1381 NAND2X1
x23 vdd vss 737 739 1381 1450 OAI21X1
x24 vdd vss 1450 clock 39 DFFPOSX1
x25 vdd vss sr<4> 741 INVX1
x26 vdd vss 734 741 736 737 1451 OAI22X1
x27 vdd vss 1451 clock sr<5> DFFPOSX1
x28 vdd vss counter<5> 742 INVX1
x29 vdd vss N<3> 744 INVX1
x30 vdd vss N<1> N<2> 746 NAND2X1
x31 vdd vss 744 746 747 NAND2X1
x32 vdd vss 747 1169 INVX1
x33 vdd vss N<4> 748 INVX1
x34 vdd vss N<5> 749 INVX1
x35 vdd vss 1169 748 749 751 NAND3X1
x36 vdd vss 751 1041 INVX1
x37 vdd vss N<6> 743 INVX1
x38 vdd vss N<6> 1041 743 751 1197 OAI22X1
x39 vdd vss 731 1101 INVX1
x40 vdd vss counter<0> counter<1> 757 OR2X1
x41 vdd vss counter<3> 757 659 NOR2X1
x42 vdd vss counter<2> 752 INVX1
x43 vdd vss counter<4> 753 INVX1
x44 vdd vss 659 752 753 759 NAND3X1
x45 vdd vss counter<5> 759 760 OR2X1
x46 vdd vss 759 counter<5> 1373 NAND2X1
x47 vdd vss 760 1373 761 NAND2X1
x48 vdd vss 1197 1101 run 761 646 AOI22X1
x49 vdd vss 730 742 646 1452 OAI21X1
x50 vdd vss 1452 clock counter<5> DFFPOSX1
x51 vdd vss sr<0> 763 INVX1
x52 vdd vss 738 31 1361 NAND2X1
x53 vdd vss 739 763 1361 1453 OAI21X1
x54 vdd vss 1453 clock 31 DFFPOSX1
x55 vdd vss 760 counter<6> 1349 NAND2X1
x56 vdd vss counter<6> 760 1349 774 OAI21X1
x57 vdd vss counter<6> 773 INVX1
x58 vdd vss 773 774 776 NAND2X1
x59 vdd vss 776 counter<7> 1345 NAND2X1
x60 vdd vss counter<7> 776 1345 777 OAI21X1
x61 vdd vss 774 777 594 NOR2X1
x62 vdd vss 761 1123 INVX1
x63 vdd vss 594 730 1123 780 NAND3X1
x64 vdd vss 780 1419 INVX1
x65 vdd vss 757 counter<2> 1357 NAND2X1
x66 vdd vss counter<2> 757 1357 765 OAI21X1
x67 vdd vss counter<1> 756 INVX1
x68 vdd vss 756 counter<0> 766 NAND2X1
x69 vdd vss 765 766 603 NOR2X1
x70 vdd vss 752 765 768 NAND2X1
x71 vdd vss counter<3> 768 1194 OR2X1
x72 vdd vss 768 counter<3> 1353 NAND2X1
x73 vdd vss 1194 1353 769 NAND2X1
x74 vdd vss 1194 counter<4> 1351 NAND2X1
x75 vdd vss 759 1351 770 NAND2X1
x76 vdd vss 769 770 598 NOR2X1
x77 vdd vss 1419 603 598 1341 NAND3X1
x78 vdd vss 811 731 1341 782 NAND3X1
x79 vdd vss 782 811 1465 1337 NAND3X1
x80 vdd vss 1465 782 1337 1454 OAI21X1
x81 vdd vss 1454 clock run DFFPOSX1
x82 vdd vss N<3> 746 314 NOR2X1
x83 vdd vss 746 N<3> 314 244 AOI21X1
x84 vdd vss 244 731 730 752 784 OAI22X1
x85 vdd vss run 765 784 _n131<2> AOI21X1
x86 vdd vss _n131<2> 1455 INVX1
x87 vdd vss 1455 clock counter<2> DFFPOSX1
x88 vdd vss sr<3> 785 INVX1
x89 vdd vss sr<7> 786 INVX1
x90 vdd vss 737 741 sr<5> sr<4> 216 AOI22X1
x91 vdd vss 786 sr<7> 216 _na<0> MUX2X1
x92 vdd vss 785 sr<3> _na<0> 209 MUX2X1
x93 vdd vss 209 734 736 763 1456 OAI22X1
x94 vdd vss 1456 clock sr<0> DFFPOSX1
x95 vdd vss 738 38 1309 NAND2X1
x96 vdd vss 739 785 1309 1457 OAI21X1
x97 vdd vss 1457 clock 38 DFFPOSX1
x98 vdd vss start clock oldstart DFFPOSX1
x99 vdd vss 734 735 736 785 1459 OAI22X1
x100 vdd vss 1459 clock sr<3> DFFPOSX1
x101 vdd vss sr<6> 790 INVX1
x102 vdd vss 738 34 1301 NAND2X1
x103 vdd vss 739 790 1301 1460 OAI21X1
x104 vdd vss 1460 clock 34 DFFPOSX1
x105 vdd vss N<8> 792 INVX1
x106 vdd vss N<6> 751 794 OR2X1
x107 vdd vss N<7> 794 220 NOR2X1
x108 vdd vss N<8> 792 220 245 MUX2X1
x109 vdd vss counter<7> 775 INVX1
x110 vdd vss 245 731 730 775 796 OAI22X1
x111 vdd vss run 777 796 _n131<7> AOI21X1
x112 vdd vss _n131<7> 1461 INVX1
x113 vdd vss 1461 clock counter<7> DFFPOSX1
x114 vdd vss almostdone clock 35 DFFPOSX1
x115 vdd vss 734 737 736 790 1463 OAI22X1
x116 vdd vss 1463 clock sr<6> DFFPOSX1
x117 vdd vss N<4> 747 N<5> 1203 OAI21X1
x118 vdd vss 1203 751 1101 1277 NAND3X1
x119 vdd vss 730 753 1277 798 OAI21X1
x120 vdd vss run 770 798 _n131<4> AOI21X1
x121 vdd vss _n131<4> 1464 INVX1
x122 vdd vss 1464 clock counter<4> DFFPOSX1
x123 vdd vss 1465 clock almostdone DFFPOSX1
x124 vdd vss 738 37 1275 NAND2X1
x125 vdd vss 733 739 1275 1466 OAI21X1
x126 vdd vss 1466 clock 37 DFFPOSX1
x127 vdd vss 1465 727 730 1205 OAI21X1
x128 vdd vss N<1> N<2> 746 1207 OAI21X1
x129 vdd vss 1205 counter<1> 1207 1101 456 AOI22X1
x130 vdd vss 1465 757 456 1467 OAI21X1
x131 vdd vss 1467 clock counter<1> DFFPOSX1
x132 vdd vss 734 763 733 736 1468 OAI22X1
x133 vdd vss 1468 clock sr<1> DFFPOSX1
x134 vdd vss reset clock oldreset DFFPOSX1
x135 vdd vss 738 33 1257 NAND2X1
x136 vdd vss 739 741 1257 1470 OAI21X1
x137 vdd vss 1470 clock 33 DFFPOSX1
x138 vdd vss 734 785 736 741 1471 OAI22X1
x139 vdd vss 1471 clock sr<4> DFFPOSX1
x140 vdd vss 738 40 1249 NAND2X1
x141 vdd vss 739 786 1249 1472 OAI21X1
x142 vdd vss 1472 clock 40 DFFPOSX1
x143 vdd vss 794 1130 INVX1
x144 vdd vss N<7> 793 INVX1
x145 vdd vss N<7> 1130 793 794 249 AOI22X1
x146 vdd vss 249 731 730 773 803 OAI22X1
x147 vdd vss run 774 803 _n131<6> AOI21X1
x148 vdd vss _n131<6> 1473 INVX1
x149 vdd vss 1473 clock counter<6> DFFPOSX1
x150 vdd vss 734 790 736 786 1474 OAI22X1
x151 vdd vss 1474 clock sr<7> DFFPOSX1
x152 vdd vss N<0> 805 INVX1
x153 vdd vss 738 36 1229 NAND2X1
x154 vdd vss 738 805 1229 1475 OAI21X1
x155 vdd vss 1475 clock 36 DFFPOSX1
x156 vdd vss 1169 N<4> 748 747 250 AOI22X1
x157 vdd vss counter<3> 755 INVX1
x158 vdd vss 250 731 730 755 806 OAI22X1
x159 vdd vss run 769 806 _n131<3> AOI21X1
x160 vdd vss _n131<3> 1476 INVX1
x161 vdd vss 1476 clock counter<3> DFFPOSX1
x162 vdd vss 738 32 1217 NAND2X1
x163 vdd vss 735 739 1217 1477 OAI21X1
x164 vdd vss 1477 clock 32 DFFPOSX1
x165 vdd vss 31 dp<1> BUFX2
x166 vdd vss 32 dp<3> BUFX2
x167 vdd vss 33 dp<5> BUFX2
x168 vdd vss 34 dp<7> BUFX2
x169 vdd vss 35 done BUFX2
x170 vdd vss 36 dp<0> BUFX2
x171 vdd vss 37 dp<2> BUFX2
x172 vdd vss 38 dp<4> BUFX2
x173 vdd vss 39 dp<6> BUFX2
x174 vdd vss 40 dp<8> BUFX2
.ends map9v3
 
